US04604397
A solution of 1.5 g of trans-4-benzyl-9-methoxy-1,2,3,4a,5,10b-hexahydro-4H-[1]-benzopyrano[3,4-b]pyridine in 30 ml of ethanol is hydrogenated at 300 kPa pressure in the presence of 0.5 g of 10% palladium on charcoal until one mole of hydrogen is consumed. The reaction mixture is filtered, evaporated to dryness to give 9-methoxy-1,2,3,4a,5,10b-hexahydro-4H-[1]-benzopyrano[3,4-b]pyridine.

reactant | trans-4-benzyl-9-methoxy-1,2,3,4a,5,10b-hexahydro-4H-[1]-benzopyrano[3,4-b]pyridine | 1.5 g | C(C1=CC=CC=C1)N1[C@H]2[C@H](CCC1)C1=C(OC2)C=CC(=C1)OC | C20H23NO2
reactant | hydrogen | one mole | [H][H] | H2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 9-methoxy-1,2,3,4a,5,10b-hexahydro-4H-[1]-benzopyrano[3,4-b]pyridine | COC=1C=CC2=C(C1)C1C(NCCC1)CO2 | C13H17NO2
